US04957971
Step E--Preparation of (R*, R*)-7-[5-(4-Fluorophenyl)-3-(1-methylethyl)-1-(2-pyridinyl)-1H-pyrazol-4-yl]-3,5-dihydroxy-6-heptenoic acid
A solution of 1.44 g (2.84 mmol) of cis-(±)-ethyl-6-[2[5-(4-fluorophenyl)-3-(1-methylethyl)-1-(2-pyridinyl)-1H- pyrazol-4-yl]ethenyl]-2,2-dimethyl-1,3-dioxane-4-acetate in 15 ml of ethyl acetate was catalytically reduced under one atmosphere of hydrogen gas in the presence of 20% Pd/C. at 25° C. for four days.

reactant | cis-(±)-ethyl-6-[2[5-(4-fluorophenyl)-3-(1-methylethyl)-1-(2-pyridinyl)-1H- pyrazol-4-yl]ethenyl]-2,2-dimethyl-1,3-dioxane-4-acetate | 2.84 mmol, 1.44 g | C(C)OC(C[C@@H]1OC(O[C@@H](C1)C=CC=1C(=NN(C1C1=CC=C(C=C1)F)C1=NC=CC=C1)C(C)C)(C)C)=O | C29H34FN3O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 7-[5-(4-Fluorophenyl)-3-(1-methylethyl)-1-(2-pyridinyl)-1H-pyrazol-4-yl]-3,5-dihydroxy-6-heptenoic acid | FC1=CC=C(C=C1)C1=C(C(=NN1C1=NC=CC=C1)C(C)C)C=CC(CC(CC(=O)O)O)O | C24H26FN3O4
